US06794395B1
(1) 1-acetoxy-3-(Z)-[1-(4-methoxycarbonyl-anilino)-1-phenyl-methylidene]-6-nitro-2-indolinone
Prepared from 1-acetoxy-3-(1-ethoxy-1-phenyl-methylidene)-6-nitro-2-indolinone and methyl 4-aminobenzoate without subsequent hydrogenation

reactant | 1-acetoxy-3-(1-ethoxy-1-phenyl-methylidene)-6-nitro-2-indolinone | C(C)(=O)ON1C(C(C2=CC=C(C=C12)[N+](=O)[O-])=C(C1=CC=CC=C1)OCC)=O | C19H16N2O6
reactant | methyl 4-aminobenzoate | NC1=CC=C(C(=O)OC)C=C1 | C8H9NO2
product | 1-acetoxy-3-(Z)-[1-(4-methoxycarbonyl-anilino)-1-phenyl-methylidene]-6-nitro-2-indolinone | C(C)(=O)ON1C(\C(\C2=CC=C(C=C12)[N+](=O)[O-])=C(\C1=CC=CC=C1)/NC1=CC=C(C=C1)C(=O)OC)=O | C25H19N3O7
